US04343811
2-[3-(4-Fluoro-phenyl)-1-hexyl-2-methyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester
In accordance with a procedure analogous to that of Example 10, the above compound was prepared from 3-(4-fluoro-phenyl)-1-hexyl-2-methyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester.

reactant | 3-(4-fluoro-phenyl)-1-hexyl-2-methyl-1H-indole-5-ol | FC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)O)CCCCCC)C | C21H24FNO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[3-(4-Fluoro-phenyl)-1-hexyl-2-methyl-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CCCCCC)C)C1=CC=C(C=C1)F)=O | C27H34FNO3
